US08138181B2
Step B: Preparation of 7-(pyridin-3-yl)imidazo[1,2-a]pyridine:
A suspension of potassium carbonate (0.351 g, 2.54 mmol), pyridin-3-ylboronic acid (68.6 mg, 0.558 mmol), 7-bromoimidazo[1,2-a]pyridine (0.100 g, 0.508 mmol) and tetrakis(triphenylphosphine)palladium (0) (29.3 mg, 0.025 mmol) in 6.5 ml of a 1:1:4.5 mixture of water:dimethylformamide:acetonitrile was degassed thoroughly under a nitrogen atmosphere, and heated at 60° C. for 18 hours. The reaction mixture was poured in water (50 ml) and extracted with dichloromethane and EtOAc. The combined organic extracts were dried over anhydrous sodium sulfate and concentrated to afford a solid. The solid was purified by silica gel chromatography (eluting with 6% MeOH-chloroform) to afford the desired compound (74.1 mg, 75% yield). MS APCI (+) m/z 196.3 (M+1) detected.

reactant | potassium carbonate | 2.54 mmol, 0.351 g | C([O-])([O-])=O.[K+].[K+]
reactant | pyridin-3-ylboronic acid | 0.558 mmol, 68.6 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | 7-bromoimidazo[1,2-a]pyridine | 0.508 mmol, 0.100 g | BrC1=CC=2N(C=C1)C=CN2 | C7H5BrN2
catalyst | tetrakis(triphenylphosphine)palladium | 0.025 mmol, 29.3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
product | 7-(pyridin-3-yl)imidazo[1,2-a]pyridine | 74.1 mg, 75% yield | N1=CC(=CC=C1)C1=CC=2N(C=C1)C=CN2 | C12H9N3
